US06525042B1
Methyl 4-(3-pyridyl)benzoate
In tetrahydrofuran (100 ml), methyl 4-bromobenzoate (5.04 g) and diethyl-3-pyridylborane (2.30 g) were dissolved, followed by the addition of tetrabutylammonium bromide (2.51 g), potassium hydroxide (2.63 g), tetrakis(triphenylphosphine)palladium (O) (1.8 g) and water (1 ml) under an argon atmosphere. The resulting mixture was heated under reflux for 2 hours. After ice cooling, an aqueous ammonium chloride solution and ethyl acetate were added to the reaction mixture. The organic layer so separated was dried over anhydrous magnesium sulfate. The residue obtained by distilling off the solvent was purified by chromatography on a silica gel column (hexane:ethyl acetate=1:1). The solvent was then distilled off. To the residue, methanol and ethanolic 1N hydrochloric acid were added. The solvent was distilled off again. Tetrahydrofuran was added to the residue and the solid so precipitated was collected by filtration. After drying, the title compound (1.76 g, 45%) was obtained as a colorless solid.

reactant | methyl 4-bromobenzoate | 5.04 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
reactant | diethyl-3-pyridylborane | 2.30 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | potassium hydroxide | 2.63 g | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | 2.51 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 1.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1 ml | O | H2O
product | Methyl 4-(3-pyridyl)benzoate | 1.76 g, 45% | N1=CC(=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C13H11NO2
